US07994203B2
Step 2: 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol
3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carbaldehyde (750 mg, 2.426 mmol) and m-CPBA (897 mg, 3.64 mmol) are stirred in DCM (10.5 ml) at RT for 3 hours, whereupon the reaction mixture is diluted with DCM (120 ml). The organic phase is washed with sat. NaHCO3 (70 ml) and the phases separated via a phase separator. Back extraction of the aqueous phase with DCM (50 ml) is carried out and the combined organic phases are concentrated in vacuo. The resultant yellow gum is dissolved in MeOH (16.80 ml) and K2CO3 (1676 mg, 12.13 mmol) is added. The reaction is stirred at RT for 30 mins before the MeOH is removed in vacuo. The resulting solid is diluted with water (˜100 ml) and the product is extracted into EtOAc (2×100 ml). The combined organic extracts are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is isolated as a light orange solid which is dissolved DCM (15 ml), cooled to 0° C. and the resultant solid collected by filtration to afford the title compound as a pale yellow solid. MS: m/z 297.15 [M+H]+.

reactant | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carbaldehyde | 2.426 mmol, 750 mg | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)C=O | C14H10Cl2N2O2
reactant | m-CPBA | 3.64 mmol, 897 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | K2CO3 | 12.13 mmol, 1676 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | DCM | 10.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)O | C13H10Cl2N2O2
